US07514460B2
N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-4-trifluoromethylbenzamide was prepared from p-trifluoromethylbenzoyl chloride (17 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 44 mg, 83 μmol, 73%). LC/ESI-MS: m/z=526 [M+H]+; m/z=524 [M−H]−; Rt=3.67 min.

reactant | p-trifluoromethylbenzoyl chloride | 0.113 mmol, 17 μL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-4-trifluoromethylbenzamide | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C25H18F3N5O3S
